US08748434B2
4-{3-[(6-Chloro-4-o-tolyl-pyridazin-3-yl)-methyl-carbamoyl]-5-methyl-benzenesulfonyl}-butyric acid tert-butyl ester
The title compound was prepared in analogy to example 1, from (6-chloro-4-o-tolyl-pyridazin-3-yl)-methyl-amine (example 4, intermediate a) and 3-(3-tert-butoxycarbonyl-propane-1-sulfonyl)-5-trifluoromethyl-benzoic acid after a reaction time of 18 hours and using a gradient of n-heptane:ethyl acetate (100:0 to 30:70) for the chromatographic purification. Another purification step using preparative HPLC (Gemini NX column) with a gradient of methanol:water with 0.05% formic acid (80:20 to 98:2) yielded the desired compound as a colorless solid (14%). MS (ESI+): m/z=541.090 ([M+H]+).

reactant | (6-chloro-4-o-tolyl-pyridazin-3-yl)-methyl-amine | ClC1=CC(=C(N=N1)NC)C1=C(C=CC=C1)C | C12H12ClN3
reactant | 3-(3-tert-butoxycarbonyl-propane-1-sulfonyl)-5-trifluoromethyl-benzoic acid | C(C)(C)(C)OC(=O)CCCS(=O)(=O)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C16H19F3O6S
solvent | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | 4-{3-[(6-Chloro-4-o-tolyl-pyridazin-3-yl)-methyl-carbamoyl]-5-methyl-benzenesulfonyl}-butyric acid tert-butyl ester | 14% | C(C)(C)(C)OC(CCCS(=O)(=O)C1=CC(=CC(=C1)C)C(N(C)C=1N=NC(=CC1C1=C(C=CC=C1)C)Cl)=O)=O | C28H32ClN3O5S
